US08293735B2
6-(4-Azetidin-1-yl-piperidin-1-ylmethyl)-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine
Prepared according to the method used in the preparation of [1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-4-yl]-cyclopropylmethyl-amine using azetidine hydrochloride in place of cyclopropanemethylamine. The title compound was obtained as an orange solid (102 mg, 57%).

reactant | [1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-4-yl]-cyclopropylmethyl-amine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCC(CC2)NCC2CC2)N2CCOCC2 | C20H28ClN5OS
reactant | azetidine hydrochloride | Cl.N1CCC1
product | 6-(4-Azetidin-1-yl-piperidin-1-ylmethyl)-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | N1(CCC1)C1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C19H26ClN5OS
